US07098226B2
3-(t-Butoxycarbonylamino)propionic acid (1.0 g, 5.3 mmol) was dissolved in anhydrous tetrahydrofuran (15 ml), and N-methylmorpholine (0.6 ml, 5.5 mmol) was added to the solution. The mixture was stirred at −15° C., and isobutyl chlorocarbonate (0.7 ml, 5.4 mmol) was added thereto. Then, a solution of a free base of 2-(1-adamantyl)-N-pentylethylamine hydrochloride (Intermediate No. 1-1) (1.5 g, 5.3 mmol) in anhydrous tetrahydrofuran (15 ml) was added thereto at −18° C. The whole was stirred at 0° C. for 1.5 hours, ethyl acetate (100 ml) and a saturated aqueous sodium hydrogencarbonate solution (100 ml) were added to the reaction mixture, and the reaction mixture was distributed. The organic layer was washed with a 10% aqueous citric acid solution (100 ml), water (100 ml) and a saturated aqueous sodium chloride solution (100 ml) successively and dried over anhydrous magnesium sulfate. The organic layer was concentrated under reduced pressure, and the concentrate was purified by silica gel column chromatography to give 1.9 g (85%) of 3-(t-butoxycarbonylamino)propionic acid N-[2-(1-adamantyl)ethyl]-N-pentylamide as an oily matter.

reactant | 3-(t-Butoxycarbonylamino)propionic acid | 5.3 mmol, 1.0 g | C(C)(C)(C)OC(=O)NCCC(=O)O | C8H15NO4
reactant | N-methylmorpholine | 5.5 mmol, 0.6 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chlorocarbonate | 5.4 mmol, 0.7 ml | C(OCC(C)C)(=O)Cl | C5H9ClO2
reactant | 2-(1-adamantyl)-N-pentylethylamine hydrochloride | 5.3 mmol, 1.5 g | Cl.C12(CC3CC(CC(C1)C3)C2)CCNCCCCC
reactant | sodium hydrogencarbonate | 100 ml | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 3-(t-butoxycarbonylamino)propionic acid N-[2-(1-adamantyl)ethyl]-N-pentylamide | 1.9 g, 85% | C12(CC3CC(CC(C1)C3)C2)CCN(C(CCNC(=O)OC(C)(C)C)=O)CCCCC | C25H44N2O3
